US04571345
Methyltriphenylphosphonium bromide (286 g, 0.80 mole) was suspended in ether (1500 ml) and treated with n-butyllithium (1.6M in ether; 500 ml, 0.80 mole), followed by 2,6-dimethylcyclohexanone (50.4 g, 0.40 mole), following the procedure described in Example 12, Part A. The crude product was distilled to give 1-methylene-2,6-dimethylcyclohexane (24 g), b.p. 146°-154° C./760 mm.

reactant | n-butyllithium | 0.80 mole, 1.6M, 500 ml | C(CCC)[Li]
reactant | 2,6-dimethylcyclohexanone | 0.40 mole, 50.4 g | CC1C(C(CCC1)C)=O | C8H14O
catalyst | Methyltriphenylphosphonium bromide | 0.80 mole, 286 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | 1500 ml | CCOCC | C4H10O
product | 1-methylene-2,6-dimethylcyclohexane | 24 g | C=C1C(CCCC1C)C | C9H16
